US07229999B2
(RS)-5-(4-Cyano-phenyl)-6-cyclopropylmethoxy-N-(2-hydroxymethyl-butyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-cyanophenylboronic acid and 2-(aminomethyl)-1-butanol as starting materials to yield (RS)-5-(4-cyano-phenyl)-6-cyclopropylmethoxy-N-(2-hydroxymethyl-butyl)-nicotinamide. MS (ISP) 380.2 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 2-(aminomethyl)-1-butanol | NCC(CO)CC | C5H13NO
product | (RS)-5-(4-cyano-phenyl)-6-cyclopropylmethoxy-N-(2-hydroxymethyl-butyl)-nicotinamide | C(#N)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC(CC)CO)C1)OCC1CC1 | C22H25N3O3
